US08466296B2
G. Alternative Preparation of [(2S)-7-nitro-2,3-dihydro-1,4-benzodioxin-2-yl]methanol
A 1 L three necked flask equipped with a mechanical stirrer, thermocouple and heating mantle is charged with (2R)-2-{[2-(benzyloxy)-4-nitrophenoxy]methyl}oxirane (50.00 g, 0.17 mol), ethanol (400 mL) N-methyl-2-pyrrolidone (100 mL) and palladium (5% on carbon, 50% water, 7.5 g). The mixture is heated to an internal temperature of 45° C., at which point a solution of sodium formate (1.40 g, 0.022 mol) in 95% formic acid (8.40 mL, 0.208 mol) is added over 5 min. The reaction is monitored by LCMS, and no starting material remained after 4 h. The pH of the reaction mixture is found to be about 2. 1 N NaOH (16 mL, 16 mmol) is added to achieve a pH of 9. Heating is discontinued, and the solution is allowed to cool to room temperature overnight. The catalyst is removed by filtration through celite, and the ethanol is removed by rotary evaporation. The flask containing the product in NMP is equipped with a magnetic stirrer and an addition funnel. Water (150 mL) is added via addition funnel over 15 min, followed by seed crystals, and the resulting suspension is stirred for 15 min. Additional water (250 mL) is added over 30 min, during which time more precipitate forms. The suspension is stirred for 2 h and the solid is collected by vacuum filtration. The filter cake is washed with water (200 mL) and suction dried under nitrogen. The title compound is obtained as a red/brown solid (24.54 g, 70%, 94% ee); m.p. 110° C. LCMS (Basic Method): 2.13 min, 212 (M+H)+. 1H NMR (300 MHz, CDCl3) δ 7.81-7.76 (m, 2H), 6.96 (d, J=8.5 Hz, 1H), 4.42 (dd, J=2.1, 11.2 Hz, 1H), 4.32-4.18 (m, 2H), 3.98-3.85 (m, 2H), 2.03 (br s, 1H).

reactant | (2R)-2-{[2-(benzyloxy)-4-nitrophenoxy]methyl}oxirane | 0.17 mol, 50.00 g | C(C1=CC=CC=C1)OC1=C(OC[C@@H]2OC2)C=CC(=C1)[N+](=O)[O-] | C16H15NO5
reactant | sodium formate | 0.022 mol, 1.40 g | C(=O)[O-].[Na+]
reactant | formic acid | 0.208 mol, 8.40 mL | C(=O)O | CH2O2
reactant | NaOH | 16 mmol, 1 N, 16 mL | [OH-].[Na+]
catalyst | palladium | 7.5 g | [Pd] | Pd
solvent | ethanol | 400 mL | C(C)O | C2H6O
product | [(2S)-7-nitro-2,3-dihydro-1,4-benzodioxin-2-yl]methanol | [N+](=O)([O-])C=1C=CC2=C(O[C@H](CO2)CO)C1 | C9H9NO5
